US08445530B2
(3,6-Difluoro-2-hydroxymethyl-phenyl)-methanol
Lithium aluminium hydride (792 mg, 19.8 mmol) was suspended in THF (6 ml) and cooled in an ice bath. A solution of 4,7-difluoro-isobenzofuran-1,3-dione (730 mg, 3.97 mmol) in THF (6 ml) was added during 5 min. After completion of the reaction (5 min), diethyl ether (30 ml) was added. Subsequently, 2 ml of EA were added in order to decompose excess of lithium aluminium hydride, and thereafter water was slowly added until the alumina salts precipitated. The supernatant was decanted and the precipitate washed twice with EA. The combined extracts were dried over sodium sulfate, filtered and evaporated to dryness to yield 360 mg of the title compound.

reactant | Lithium aluminium hydride | 19.8 mmol, 792 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4,7-difluoro-isobenzofuran-1,3-dione | 3.97 mmol, 730 mg | FC1=C2C(OC(C2=C(C=C1)F)=O)=O | C8H2F2O3
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
reactant | EA | 2 ml | CC(OCC)=O | C4H8O2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (3,6-Difluoro-2-hydroxymethyl-phenyl)-methanol | 360 mg | FC=1C(=C(C(=CC1)F)CO)CO | C8H8F2O2
